US07435837B2
Treatment of (−)-benzyl {[7-(3-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate (1.38 g, 3.54 mmol) with palladium on carbon (0.138 g, 10 wt. %) generally according to the procedure described for Example 1 provided 0.558 g (62%) of (−)-1-[7-(3-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. [α]D25=−32.14 (c 10.0 in methanol); mp 156-158° C.; Anal. calcd. for C16H17NO2HCl: C, 65.86; H, 6.22; N, 4.8. Found: C, 65.03; H, 6.22; N, 4.7.

reactant | (−)-benzyl {[7-(3-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate | 3.54 mmol, 1.38 g | COC=1C=C(C=CC1)C1=CC=CC=2CC(OC21)CNC(OCC2=CC=CC=C2)=O | C24H23NO4
catalyst | palladium on carbon | 0.138 g | [Pd] | Pd
product | (−)-1-[7-(3-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 0.558 g, 62% | COC=1C=C(C=CC1)C1=CC=CC=2CC(OC21)CN | C16H17NO2
